US07576215B2
3-PHENOXY-4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLINE
4-Bromo-3-phenoxy-8-(trifluoromethyl)quinoline: The title compound is prepared essentially as described in Example 392, step 4, except using 3-phenoxy-8-(trifluoromethyl)quinolin-4-ol instead of 3-phenyl-8-(trifluoromethyl)quinolin-4-ol to afford the title compound as a yellow solid (0.230 g, 80%). mp 122° C.; MS (ESI) m/z 368; HRMS: calcd for C16H9NF3OBr+H, 367.98978; found (ESI, [M+H]+), 367.9879.

reactant | 4-Bromo-3-phenoxy-8-(trifluoromethyl)quinoline | BrC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)OC1=CC=CC=C1 | C16H9BrF3NO
reactant | 3-phenoxy-8-(trifluoromethyl)quinolin-4-ol | O(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C16H10F3NO2
product | 3-PHENOXY-4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLINE | 0.230 g, 80% | O(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C22H14F3NO
